US06313119B1
(2S)-2-(4-tert-Butyl-benzenesulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid isopropyl ester
700 mg of (2S)-2-(4-tert-butyl-benzenesulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid was dissolved in 100 ml of isopropanol and 15 drops of concentrated sulfuric acid was added. The reaction solution was boiled for 2.5 days. The solvent was removed in vacuo, the residue was dissolved in dichloromethane and washed three times with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted once with dichloromethane and the combined organic phase was washed twice with saturated aqueous sodium chloride solution. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was dissolved in 2N aqueous hydrochloric acid. The hydrochloric acid was removed in vacuo, the residue was dissolved in acetonitrile and added to water. This mixture was lyophilized. Yield 444 mg. MS (ES+): m/e=600.4 (M+H)+.

reactant | (2S)-2-(4-tert-butyl-benzenesulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid | 700 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O | C27H35N5O6S
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
catalyst | sulfuric acid | 15 drops | S(O)(O)(=O)=O | H2O4S
product | (2S)-2-(4-tert-Butyl-benzenesulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid isopropyl ester | C(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O | C30H41N5O6S
